US07977351B2
3-[2-(3-Diethylamino-propyl)-7H-furo[3,4-b]pyridin-5-ylidene]-5-fluoro-1,3-dihydro-indol-2-one
A solution of 5-Fluoro-1,3-dihydro-indol-2-one (100 mg) in anhydrous. THF (5 mL) at room temperature is treated with lithium bis(trimethylsilyl)amide (1.0 M solution in tetrahydrofuran, 1.33 mL, 6 equiv). The resulting mixture is stirred at room temperature for 10 min, then is added 2-(3-diethylamino-propyl)-7H-furo[3,4-b]pyridin-5-one (55 mg, 1 equiv) in one portion. The reaction mixture is stirred at room temperature until both TLC and HPLC indicated the disappearance of the phthalide. The reaction mixture is poured into 10% aqueous HCl solution (10 mL) with stirring. Then it is heated at 50° C. for 2 h and further stirred at room temperature for an overnight. The mixture is poured into 100 mL ice water, to which solid NaHCO3 is carefully added to adjust pH to 8. The aqueous layer is extracted with EtOAc (2×). Organic layer is combined, dried with anhydrous Na2SO4, filtered and concentrated. The residue obtained purified by chromatography (silica gel, MeOH-chloroform) to give the title compound as a yellow solid (31 mg, 37%).

reactant | 5-Fluoro-1,3-dihydro-indol-2-one | 100 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | 1.0 M, 1.33 mL, 6 equiv | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(3-diethylamino-propyl)-7H-furo[3,4-b]pyridin-5-one | 55 mg, 1 equiv | C(C)N(CCCC1=CC=C2C(=N1)COC2=O)CC | C14H20N2O2
reactant | phthalide | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | HCl | 10 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-[2-(3-Diethylamino-propyl)-7H-furo[3,4-b]pyridin-5-ylidene]-5-fluoro-1,3-dihydro-indol-2-one | 31 mg, 37% | C(C)N(CCCC1=CC=C2C(=N1)COC2=C2C(NC1=CC=C(C=C21)F)=O)CC | C22H24FN3O2
